US05256675
A mixture of 2-acetylamino-5-chlorothiazole (1.76 g), 4-hydroxythiophenol (1.3 g) and potassium carbonate (2 g) in N,N-dimethylformamide (30 ml) was heated at 120° C. for 2.5 hours with stirring. The reaction mixture was poured into ice water. The precipitates were collected by filtration, washed with water and dried in vacuo to give 2-acetylamino-5-(4-hydroxyphenylthio)thiazole (1.5 g, yield: 56.6%). mp: 265°-267° C.

reactant | 2-acetylamino-5-chlorothiazole | 1.76 g | C(C)(=O)NC=1SC(=CN1)Cl | C5H5ClN2OS
reactant | 4-hydroxythiophenol | 1.3 g | OC1=CC=C(C=C1)S | C6H6OS
reactant | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-acetylamino-5-(4-hydroxyphenylthio)thiazole | 1.5 g, yield: 56.6% | C(C)(=O)NC=1SC(=CN1)SC1=CC=C(C=C1)O | C11H10N2O2S2
